US05554542
To prepare 2-(3-methoxycarbonylpropyl)-3-isothiazolone, Compound I (1.02 g, 2.5 mmol) was dissolved in25 ml distilled ethyl acetate and cooled to 0° C. Sulfuryl chloride (1.04 g, 7.75 mmol) was added slowly dropwise and the yellow solution stirred at 0° C. for 1 hr. During this time a white precipitate formed (5-chloro-2-(3-methoxycarbonylpropyl)-3-isothiazolone (200 mg)) which was removed by filtration. The resulting filtrate was concentrated and the residue flash-chromatographed (10% acetone-chloroform) to yield 2-(3-methoxycarbonylpropyl)-3-isothiazolone (120 mg) as a clear oil.

reactant | 2-(3-methoxycarbonylpropyl)-3-isothiazolone | COC(=O)CCCN1SC=CC1=O | C8H11NO3S
reactant | Sulfuryl chloride | 7.75 mmol, 1.04 g | S(=O)(=O)(Cl)Cl | Cl2O2S
product | 5-chloro-2-(3-methoxycarbonylpropyl)-3-isothiazolone | 200 mg | ClC1=CC(N(S1)CCCC(=O)OC)=O | C8H10ClNO3S
